US05698550
cis-3-(3-Pyridylmethyl)-6-(2-quinolyloxy)-4-chromanol
3-(3-Pyridylmethyl)-4,6-chromandiol (5.0 g, 19.4 mmol; EP appln. 312,295) was dissolved in 100 ml dimethylformamide. 2-Chloroquinoline (3.17 g, 19.4 mmol) and then NaH (0.98 g of a 50% dispersion in oil, 20.4 mmol) were added and the mixture stirred at 90°-95° C. for 16 hours. The reaction mixture was cooled, quenched into 500 ml H2O, and extracted 4×400 ml ethyl acetate. The organic layers were combined, washed 3×400 ml H2O and 1×400 ml brine, dried (Na2 SO4), stripped to an oil (9.47 g) and chromatographed in silica gel gradiently eluted with 4-15% CH3OH in CH2Cl2 to yield 5.07 g of present title product as a white foam; IR (KBr) 3190, 1602, 1492 cm-1 ; MS 384 (M+).

reactant | 3-(3-Pyridylmethyl)-4,6-chromandiol | 19.4 mmol, 5.0 g | N1=CC(=CC=C1)CC1COC2=CC=C(C=C2C1O)O | C15H15NO3
reactant | 2-Chloroquinoline | 19.4 mmol, 3.17 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | NaH | [H-].[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | cis-3-(3-Pyridylmethyl)-6-(2-quinolyloxy)-4-chromanol | 5.07 g | N1=CC(=CC=C1)C[C@@H]1COC2=CC=C(C=C2[C@@H]1O)OC1=NC2=CC=CC=C2C=C1 | C24H20N2O3
